US06498251B1
Synthesis Example 7e 1-Benzyl-4-(1-methyl-1-phenyl-ethyl)-piperazine
In an atmosphere of argon and at room temperature, 2-(4-benzyl-piperazin-1-yl)-2-methyl-propionitrile (820 mg, 3.4 mmol) dissolved in diethyl ether (1.2 ml) and benzene (2.5 ml) was added dropwise to phenylmagnesium bromide ether solution (3.0 M, 2.0 ml, 6.0 mmol), and the mixture after completion of the dropwise addition was stirred for 3.5 hours. The reaction solution was mixed with 10% ammonium chloride aqueous solution (18 ml) and separated into water layer and organic layer. The reaction product was extracted from the organic layer with dilute hydrochloric acid, and then the water layer was neutralized with aqueous ammonia and the reaction product was again extracted with ethyl acetate. The ethyl acetate layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate, the solvent was removed by evaporation under a reduced pressure, and then the thus obtained material was separated and purified by a silica gel column chromatography to obtain 300 mg (1.0 mmol, 30% in yield) of the title compound.

reactant | 2-(4-benzyl-piperazin-1-yl)-2-methyl-propionitrile | 3.4 mmol, 820 mg | C(C1=CC=CC=C1)N1CCN(CC1)C(C#N)(C)C | C15H21N3
reactant | benzene | 2.5 ml | C1=CC=CC=C1 | C6H6
reactant | ammonium chloride | 18 ml | [Cl-].[NH4+]
solvent | diethyl ether | 1.2 ml | C(C)OCC | C4H10O
product | 1-Benzyl-4-(1-methyl-1-phenyl-ethyl)-piperazine | C(C1=CC=CC=C1)N1CCN(CC1)C(C)(C1=CC=CC=C1)C | C20H26N2
